US07572811B2
To a solution of crude 1-cyclohexyl-4-methoxy-2-methyl-benzene in dry DCM (10 mL) is added BBr3 at −78° C. Following this addition, the mixture is heated at 50° C. for 12 hours. The reaction mixture is cooled in an ice bath, and the reaction is quenched by the dropwise addition of water. The mixture is extracted with DCM. The combined organic phases are washed with 10% NaHCO3 (aq), brine, and dried over Na2SO4. After concentration, the residue is purified by silica gel chromatography (10% EtOAc in hexanes) to give 4-cyclohexyl-3-methyl-phenol.

reactant | 1-cyclohexyl-4-methoxy-2-methyl-benzene | C1(CCCCC1)C1=C(C=C(C=C1)OC)C | C14H20O
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-cyclohexyl-3-methyl-phenol | C1(CCCCC1)C1=C(C=C(C=C1)O)C | C13H18O
